US07361763B2
Into a 50 ml flame-dried round bottomed flask were added potassium bis(trimethylsilyl)amide (832 mg, 39.2 mmol) and anhydrous THF (10 ml). The slurry was cooled to 0° C. for 5 minutes under nitrogen, then (methoxymethyl)triphenylphosphonium chloride (1.53 g, 4.47 mmol) was added. The resulting red-orange solution was stirred at room temperature for 45 min, then a solution of (2-amino-5-bromo-pyridin-3-yl)-(2-methoxy-phenyl)-methanone (601 mg, 1.95 mmol in 10 ml THF) was added all at once. The reaction was stirred under nitrogen for 4 hours then quenched by addition of a saturated aqueous solution of ammonium chloride (25 ml). Ethyl acetate (100 ml) was added, and the layers were separated. The aqueous fraction was extracted three times with ethyl acetate, and the combined organic fractions were washed with brine, dried (Na2SO4), filtered and concentrated to give a brown, sticky oil. Purification by flash chromatography on silica gel using a gradient of ethyl acetate in hexanes gave 554 mg (84%) of 5-bromo-3-[2-methoxy-1-(2-methoxy-phenyl)-vinyl]-pyridin-2-ylamine as a mixture of E- and Z-isomers.

reactant | potassium bis(trimethylsilyl)amide | 39.2 mmol, 832 mg | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | (methoxymethyl)triphenylphosphonium chloride | 4.47 mmol, 1.53 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | (2-amino-5-bromo-pyridin-3-yl)-(2-methoxy-phenyl)-methanone | 1.95 mmol, 10 ml, 601 mg | NC1=NC=C(C=C1C(=O)C1=C(C=CC=C1)OC)Br | C13H11BrN2O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 5-bromo-3-[2-methoxy-1-(2-methoxy-phenyl)-vinyl]-pyridin-2-ylamine | 554 mg, 84% | BrC=1C=C(C(=NC1)N)C(=COC)C1=C(C=CC=C1)OC | C15H15BrN2O2
